US08461185B2
Step F: 3-({[(1R)-1-(5-fluoro-2-pyridinyl)ethyl]amino}carbonyl)-N-hydroxy-5-(5-methyl-2-pyridinyl)benzenecarboximidoyl chloride
To a solution of N-[(1R)-1-(5-fluoro-2-pyridinyl)ethyl]-3-[(E)-(hydroxyimino)methyl]-5-(5-methyl-2-pyridinyl)benzamide (0.703 g, 1.86 mmol) N,N-dimethylformamide (1.9 mL) was added N-chlorosuccinimide (0.260 g, 1.95 mmol). The reaction mixture was stirred at 50° C. for 1 h. The temperature was raised to 70° C. for 1 h. The mixture was cooled to ambient temperature. Water was added. The mixture was extracted with diethyl ether (3×). The combined organic extracts were washed with water (3×), dried over magnesium sulfate, filtered and concentrated to give the title compound (0.795 g) MS 413.0 (M+1).

reactant | N-[(1R)-1-(5-fluoro-2-pyridinyl)ethyl]-3-[(E)-(hydroxyimino)methyl]-5-(5-methyl-2-pyridinyl)benzamide | 1.86 mmol, 1.9 mL, 0.703 g | FC=1C=CC(=NC1)[C@@H](C)NC(C1=CC(=CC(=C1)C1=NC=C(C=C1)C)/C=N/O)=O | C21H19FN4O2
reactant | N-chlorosuccinimide | 1.95 mmol, 0.260 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | Water | O | H2O
product | 3-({[(1R)-1-(5-fluoro-2-pyridinyl)ethyl]amino}carbonyl)-N-hydroxy-5-(5-methyl-2-pyridinyl)benzenecarboximidoyl chloride | 0.795 g | FC=1C=CC(=NC1)[C@@H](C)NC(=O)C=1C=C(C=C(C1)C1=NC=C(C=C1)C)C(=NO)Cl | C21H18ClFN4O2
